US07323475B2
b′) 2-Methyl-4-phenoxy-benzoic acid ethyl ester
27.5 g of 4-bromo-2-methyl-benzoic acid ethyl ester was dissolved in 120 mL of anhydrous toluene. To the solution was added 21.3 g of phenol, 73.6 g of Cs2CO3, 551 μL of ethyl acetate, 22 g of activated 4 A molecular sieves, and 5.68 g of 90% copper(I) trifuoromethanesulfonate benzene complex. The reaction was placed under a nitrogen atmosphere and heated at reflux temperature for 48 h. The resultant mixture was partitioned between water and ethyl acetate, and the mixture filtered through a fine sintered glass filter to remove insoluble material. The organic fraction was washed three times with 1.0 N NaOH, once with brine, dried over anhydrous sodium sulfate, and concentrated to 18.2 g of a pale tan liquid: 1H NMR (200 MHz, CDCl3) δ 7.93-7.88 (dd, J=1.3, 7.8 Hz, 1H) 7.39-7.30 (m, 2H), 7.19-7.10 (tt, J=1.2, 7.4 Hz, 1H), 7.06-7.7.0 (m, 2H), 6.80-6.75 (m, 2H), 4.37-4.26 (q, J=7.0 Hz, 2H), 2.56 (s, 3H), 1.40-1.33 (t, J=7.0 Hz, 3H).

reactant | 4-bromo-2-methyl-benzoic acid ethyl ester | 27.5 g | C(C)OC(C1=C(C=C(C=C1)Br)C)=O | C10H11BrO2
reactant | phenol | 21.3 g | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 73.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl acetate | 551 μL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Methyl-4-phenoxy-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)OC1=CC=CC=C1)C)=O | C16H16O3
